US08669234B2
4N HCl in dioxane (3 mL) was added to 3-(6-{7-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-dibenzothiophen-3-yl}-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (141 mg, 0.194 mmol) in 3 mL DCM. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated and dried overnight under vacuum. The residue was dissolved in DMF (4 mL) and to this solution was added 2-Methoxycarbonylamino-3-methyl-butyric acid (2.08 eq., 71 mg), 4-methylmorpholine (6 eq., 0.12 mL), followed by HATU (2.04 eq., 150 mg). Reaction mixture was stirred at 0° C. for 30 minutes. The reaction mixture was diluted in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer was dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 0 to 20% MeOH/ethyl acetate), followed by preparative reverse phase HPLC (GEMINI, 5 to 100% ACN/H2O+0.1% TFA). Product was lyophilized to give (1-{2-[5-(7-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-dibenzothiophen-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (Example DE) (121 mg, 59%).

reactant | HCl | 4N | Cl | ClH
reactant | 3-(6-{7-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-dibenzothiophen-3-yl}-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.194 mmol, 141 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)C=3C=CC1=C(SC4=C1C=CC(=C4)C=4NC(=NC4)C4N(CCC4)C(=O)OC(C)(C)C)C3)C2 | C42H46N6O4S
reactant | 2-Methoxycarbonylamino-3-methyl-butyric acid | 71 mg, 2.08 eq. | COC(=O)NC(C(=O)O)C(C)C | C7H13NO4
reactant | 4-methylmorpholine | 0.12 mL, 6 eq. | CN1CCOCC1 | C5H11NO
reactant | HATU | 150 mg, 2.04 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (1-{2-[5-(7-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-dibenzothiophen-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 121 mg, 59% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C=1C=CC2=C(SC3=C2C=CC(=C3)C3=CC2=C(N=C(N2)C2N(C4CCC2C4)C(C(C(C)C)NC(=O)OC)=O)C=C3)C1)=O | C46H52N8O6S
